US08491869B2
4-Nitroquinoline 1-oxide (940 mg, 4.9 mmol) in chloroform (12 mL) was cooled to 0° C. To this solution, POBr3 (1.77 g, 6.2 mmol) was added in small portions. The mixture was stirred at 0° C. for 2 h and diluted with DCM (50 mL), and poured on ice (50 g). To this suspension, 1 M NaOH was added to adjust pH to about 9. Layers were separated and the organic layer was washed with water (2×50 mL) and dried over MgSO4 and concentrated. The crude product was purified by silica chromatography to afford 2-bromo-4-nitroquinoline as a yellow solid (620 mg, 50%). 1H NMR (400 MHz, CDCl3): δ 7.63-7.94 (m, 2H), 8.06 (s, 1H), 8.17 (t, J=7.16, 6.84 Hz, 1H), 8.38 (d, J=8.76 Hz, 1H).

reactant | 4-Nitroquinoline 1-oxide | 4.9 mmol, 940 mg | [N+](=O)([O-])C1=CC=[N+](C2=CC=CC=C12)[O-] | C9H6N2O3
reactant | POBr3 | 6.2 mmol, 1.77 g | P(=O)(Br)(Br)Br | Br3OP
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | chloroform | 12 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-nitroquinoline | 620 mg, 50% | BrC1=NC2=CC=CC=C2C(=C1)[N+](=O)[O-] | C9H5BrN2O2
